US04353898
11α-Cyclohexylamino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one
A solution of 11α-amino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one 20-ethylene acetal (2 g) in ethanol (20 ml) was stirred with cyclohexanone (1.5 ml) and sodium cyanoborohydride (2.015 g) for 6 h. 5% NaHCO3 solution (40 ml) was added and the mixture was extracted with ether (x2). The extract was washed with water (x2), dried and evaporated to leave a froth which was dissolved in 2M-HCl solution (50 ml) and ethanol (50 ml). Water (100 ml) was added and the mixture was washed with ether (x2). The wash was extracted with 2M-HCl solution and the combined acid fraction was brought to basic pH with 2M-NaOH solution. The mixture was extracted with ether (x2) and the extract was washed with water (x2), dried and evaporated to leave a froth which was purified by column chromatography eluted with CHCl3 :MeOH (9:1) to give the title compound (1.235 g), [α]D +39°. νmax 1695 cm-1.

reactant | 11α-amino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one 20-ethylene acetal | 2 g | C1COC(C)([C@H]2CC[C@H]3[C@@H]4CC[C@H]5C[C@@H]([C@H](C[C@]5(C)[C@H]4[C@@H](C[C@]23C)N)OCC)O)O1 | C25H43NO4
reactant | cyclohexanone | 1.5 ml | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 2.015 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | HCl | 50 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | Water | 100 ml | O | H2O
product | 11α-Cyclohexylamino-2β-ethoxy-3α-hydroxy-5α-pregnan-20-one | 1.235 g | C1(CCCCC1)N[C@H]1[C@@H]2[C@]3(C[C@@H]([C@H](C[C@@H]3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)O)OCC)C | C29H49NO3
